US05977179
3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]propanamide
6.42 g (60 mmol) 3-Chloropropanamide, 5.85 g (30mmol) N-methyl-3,4-dimethoxybenzeneethanamine and 7.7 g (75 mmol) triethylamine in 100 ml acetonitrile were stirred under reflux for 18 hours. The reaction mixture was concentrated in vacuo and the residue purified by chromatography on silicagel using methylene chloride/methanol: 92/8 to yield 5.12 g (64.1%) of the desired compound as an orange oil.

reactant | 3-Chloropropanamide | 60 mmol, 6.42 g | ClCCC(=O)N | C3H6ClNO
reactant | N-methyl-3,4-dimethoxybenzeneethanamine | 30mmol, 5.85 g | CNCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
reactant | triethylamine | 75 mmol, 7.7 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]propanamide | 5.12 g, 64.1% | COC=1C=C(C=CC1OC)CCN(CCC(=O)N)C | C14H22N2O3
